* Created by KLayout
*** My special header ***

* cell mac
* pin VDD
* pin VMID
* pin VSS
* pin a
* pin and_out
* pin b
* pin cin
* pin cout
* pin or_out
* pin sum
* pin x
.SUBCKT mac VDD VMID VSS a and_out b cin cout or_out sum x
* cell instance $1 r0 *1 180,123.2
X$1 cout VMID VDD x \$3 cin sum VSS full_adder
* cell instance $2 r0 *1 20,420
X$2 \$10 VDD a b \$9 \$3 VSS mul
* cell instance $3 r0 *1 1080,520
X$3 VDD \$12 or_out VSS inverter
* cell instance $4 r0 *1 920,520
X$4 VDD \$10 \$12 VSS inverter
* cell instance $5 r0 *1 600,520
X$5 VDD \$9 and_out VSS inverter
.ENDS mac

* cell full_adder
* pin cout
* pin VMID
* pin VDD
* pin a
* pin b
* pin cin
* pin sum
* pin VSS
.SUBCKT full_adder cout VMID VDD a b cin sum VSS
* cell instance $1 r0 *1 1468.45,-98.25
X$1 VDD \$5 cout VSS inverter
* cell instance $3 r0 *1 600.9,-98.25
X$3 \$7 VMID VDD sum \$11 cin VSS half_adder
* cell instance $4 r0 *1 -96.05,-98.25
X$4 \$10 VMID VDD \$11 a b VSS half_adder
* cell instance $5 r0 *1 1312,-98.25
X$5 VDD \$5 VMID \$10 \$7 VSS nany
.ENDS full_adder

* cell mul
* pin t3
* pin VDD
* pin a
* pin b
* pin t1
* pin p
* pin VSS
.SUBCKT mul t3 VDD a b t1 p VSS
* cell instance $1 r0 *1 220,0
X$1 VDD \$3 t3 VSS mul_inv
* cell instance $2 r0 *1 340,200
X$2 VDD t1 t3 p VSS mul_nand
* cell instance $3 r0 *1 60,0
X$3 VDD a b \$3 VSS mul_nor
* cell instance $4 r0 *1 40,200
X$4 VDD a b t1 VSS mul_nand
.ENDS mul

* cell half_adder
* pin carry
* pin VMID
* pin VDD
* pin sum
* pin a
* pin b
* pin VSS
.SUBCKT half_adder carry VMID VDD sum a b VSS
* cell instance $1 r0 *1 496,200
X$1 VDD carry VMID \$11 \$12 VSS nany
* cell instance $2 r0 *1 508,0
X$2 VDD sum VMID \$4 carry VSS nany
* cell instance $3 r0 *1 184,0
X$3 VDD \$7 VMID \$3 carry VSS nany
* cell instance $4 r0 *1 328,200
X$4 VDD \$12 VMID b \$3 VSS nany
* cell instance $5 r0 *1 160,200
X$5 VDD \$3 VMID a b VSS nany
* cell instance $6 r0 *1 352,0
X$6 VDD \$7 \$4 VSS inverter
* cell instance $7 r0 *1 40,200
X$7 VDD a \$11 VSS inverter
.ENDS half_adder

* cell mul_inv
* pin VDD
* pin vin
* pin vout
* pin VSS
.SUBCKT mul_inv VDD vin vout VSS
* device instance $1 r0 *1 13.2,44 PMOS
XM$1 \$4 vin VDD VDD PMOS L=1u W=13.5u AS=37.8p AD=37.8p PS=32.6u PD=32.6u
* device instance $2 r0 *1 13.2,14 NMOS
XM$2 \$5 vin VSS VSS NMOS L=1u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 64,32 F_RR
XR$3 \$5 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $4 r0 *1 64,45 F_RR
XR$4 \$4 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS mul_inv

* cell mul_nor
* pin V+
* pin a
* pin b
* pin vout
* pin V-
.SUBCKT mul_nor V+ a b vout V\x2d
* device instance $1 r0 *1 20,96 PMOS
XM$1 \$15 a V+ V+ PMOS L=1u W=37u AS=103.6p AD=103.6p PS=79.6u PD=79.6u
* device instance $2 r0 *1 35,96 PMOS
XM$2 \$3 b \$15 V+ PMOS L=1u W=37u AS=103.6p AD=103.6p PS=79.6u PD=79.6u
* device instance $3 r0 *1 20,16 NMOS
XM$3 \$4 a V\x2d V\x2d NMOS L=1u W=6.5u AS=18.2p AD=18.2p PS=18.6u PD=18.6u
* device instance $4 r0 *1 35,16 NMOS
XM$4 \$4 b V\x2d V\x2d NMOS L=1u W=6.5u AS=18.2p AD=18.2p PS=18.6u PD=18.6u
* device instance $5 r0 *1 90,42 F_RR
XR$5 \$4 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $6 r0 *1 90,78 F_RR
XR$6 \$3 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS mul_nor

* cell mul_nand
* pin V+
* pin a
* pin b
* pin vout
* pin V-
.SUBCKT mul_nand V+ a b vout V\x2d
* device instance $1 r0 *1 20,96 PMOS
XM$1 \$3 a V+ V+ PMOS L=1u W=19u AS=53.2p AD=53.2p PS=43.6u PD=43.6u
* device instance $2 r0 *1 35,96 PMOS
XM$2 \$3 b V+ V+ PMOS L=1u W=19u AS=53.2p AD=53.2p PS=43.6u PD=43.6u
* device instance $3 r0 *1 20,16 NMOS
XM$3 \$15 a \$5 V\x2d NMOS L=1u W=13u AS=36.4p AD=36.4p PS=31.6u PD=31.6u
* device instance $4 r0 *1 35,16 NMOS
XM$4 V\x2d b \$15 V\x2d NMOS L=1u W=13u AS=36.4p AD=36.4p PS=31.6u PD=31.6u
* device instance $5 r0 *1 90,42 F_RR
XR$5 \$5 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $6 r0 *1 90,78 F_RR
XR$6 \$3 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS mul_nand

* cell nany
* pin VDD
* pin vout
* pin VMID
* pin a
* pin b
* pin VSS
.SUBCKT nany VDD vout VMID a b VSS
* device instance $1 r0 *1 50,88 PMOS
XM$1 \$7 a vout VDD PMOS L=1u W=14u AS=39.2p AD=39.2p PS=33.6u PD=33.6u
* device instance $2 r0 *1 65,88 PMOS
XM$2 \$10 b vout VDD PMOS L=1u W=14u AS=39.2p AD=39.2p PS=33.6u PD=33.6u
* device instance $3 r0 *1 20,88 PMOS
XM$3 \$31 a VDD VDD PMOS L=1u W=34u AS=95.2p AD=95.2p PS=73.6u PD=73.6u
* device instance $4 r0 *1 35,88 PMOS
XM$4 \$3 b \$31 VDD PMOS L=1u W=34u AS=95.2p AD=95.2p PS=73.6u PD=73.6u
* device instance $5 r0 *1 50,15 NMOS
XM$5 \$7 b VMID VSS NMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $6 r0 *1 65,15 NMOS
XM$6 \$10 a VMID VSS NMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $7 r0 *1 20,15 NMOS
XM$7 \$32 a \$4 VSS NMOS L=1u W=11u AS=30.8p AD=30.8p PS=27.6u PD=27.6u
* device instance $8 r0 *1 35,15 NMOS
XM$8 VSS b \$32 VSS NMOS L=1u W=11u AS=30.8p AD=30.8p PS=27.6u PD=27.6u
* device instance $9 r0 *1 112.5,42 F_RR
XR$9 \$4 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $10 r0 *1 112.5,72 F_RR
XR$10 \$3 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS nany

* cell inverter
* pin VDD
* pin vin
* pin vout
* pin VSS
.SUBCKT inverter VDD vin vout VSS
* device instance $1 r0 *1 13.2,44 PMOS
XM$1 \$4 vin VDD VDD PMOS L=1u W=13.5u AS=37.8p AD=37.8p PS=32.6u PD=32.6u
* device instance $2 r0 *1 13.2,14 NMOS
XM$2 \$5 vin VSS VSS NMOS L=1u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 64,32 F_RR
XR$3 \$5 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $4 r0 *1 64,45 F_RR
XR$4 \$4 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS inverter
